US06518423B1
To a solution of 1.0 g of methyl 4-[1-(benzyloxy-carbonyl)piperidin-4-yl]phenylacetate in ethanol (100 ml) was added 1.0 g of 10% palladium-carbon (moisture content: 50%) and a hydrogenation reaction was effected under atmospheric pressure for 12 hours. Then the palladium-carbon was filtered off and the solvent was concentrated under reduced pressure to thereby give 0.5 g of crude methyl 4-(piperidin-4-yl)phenylacetate. To a solution of 0.5 g of this crude product and 0.5 g of 8-(chloroethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine in N,N-dimethylformamide (30 ml) was added 0.87 g of anhydrous potassium carbonate and the resulting mixture was stirred under heating to 60° C. for 40 minutes. After adding water, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 0.6 g of the title compound as a yellow oily substance.

reactant | methyl 4-[1-(benzyloxy-carbonyl)piperidin-4-yl]phenylacetate | 1.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)CC(=O)OC | C22H25NO4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | methyl 4-(piperidin-4-yl)phenylacetate | 0.5 g | N1CCC(CC1)C1=CC=C(C=C1)CC(=O)OC | C14H19NO2
